US08835470B2
To a solution of ethyl 5-phenyl-4-(trifluoromethyl)isoxazole-3-carboxylate (3.6 g, 12.6 mmol) in methanol (100 mL) and water (20 mL) at room temperature was added lithium hydroxide, monohydrate (0.583 g, 13.9 mmol). The reaction mixture was stirred at room temperature for 30 minutes. The methanol was removed under reduce pressure, and the residue was diluted with water (˜100 mL). Ethyl ether (200 mL) was added, and the pH of the aqueous layer was adjusted to <1 with a 1N aqueous solution of hydrochloric acid. The mixture was transferred to a separatory funnel, and after agitation, the layers were separated. The organic layer was washed with brine (100 mL), dried over anhydrous magnesium sulfate, and concentrated to afford 5-phenyl-4-(trifluoromethyl)isoxazole-3-carboxylic acid (3.12 g, 12.13 mmol, 96% yield) as a white, crystalline solid. The compound had an HPLC retention time=2.58 minutes (YMC-Combi 4.6×50 mm S-5 ODS column) eluting with 10-90% aqueous methanol+0.2% phosphoric acid over a 4 minute gradient. MS:(M+Na)=279.95. 1H NMR (400 MHz, CDCl3) δ ppm 7.53-7.64 (m, 3H), and 7.70 (d, J=7.5 Hz, 2H).

reactant | ethyl 5-phenyl-4-(trifluoromethyl)isoxazole-3-carboxylate | 12.6 mmol, 3.6 g | C1(=CC=CC=C1)C1=C(C(=NO1)C(=O)OCC)C(F)(F)F | C13H10F3NO3
reactant | lithium hydroxide, monohydrate | 13.9 mmol, 0.583 g | O.[OH-].[Li+]
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 5-phenyl-4-(trifluoromethyl)isoxazole-3-carboxylic acid | 12.13 mmol, 3.12 g, 96% yield | C1(=CC=CC=C1)C1=C(C(=NO1)C(=O)O)C(F)(F)F | C11H6F3NO3
